US07605265B2
6-Chloro-1,2,3,4-tetrahydro-acridin-9-ylamine:
2-Amino-4-chlorobenzonitrile (5.0 g, 33 mmolL), cyclohexanone (30 ml) and Zinc chloride (4.8 g, 35 mmoL) were mixed in a round bottomed flask and heated up to 120 degree Celsius for 3 hours. After cooling to room temperature, the solvent was decanted off. The resulting residue was triturated with ethyl acetate (30 ml). The solid was collected by filtration and added into 10% aqueous NaOH (50 ml). After stiring for 2 hours, the mixture was filtered and the filter cake was washed thoroughly with water. The filter cake was then extracted with methanol. The combined methanolic extract was concentrated to produce the desired product (3.8 g, 16 mmoL) in 48% yield.

reactant | 2-Amino-4-chlorobenzonitrile | 5.0 g | NC1=C(C#N)C=CC(=C1)Cl | C7H5ClN2
catalyst | Zinc chloride | 4.8 g | [Cl-].[Zn+2].[Cl-]
solvent | cyclohexanone | 30 ml | C1(CCCCC1)=O | C6H10O
product | 6-Chloro-1,2,3,4-tetrahydro-acridin-9-ylamine | 3.8 g, 48% yield | ClC=1C=C2N=C3CCCCC3=C(C2=CC1)N | C13H13ClN2
